US07253285B2
To a solution of 6-bromo-4-methoxy-quinoline (8.91 g, 37.42 mmol) in THF (tetrahydrofuran) (155 mL) was added dropwise a 2.5M solution of n-butyllithium in hexanes (16.46 mL, 4.16 mmol, 1.1 equiv.) at −70° C. During the addition, the temperature of the reaction mixture was raised slightly to −60° C. and it gave a very dark brown solution. The resulting colored solution was stirred for 30 min at this temperature. Then, a solution of dimethylformamide (5.78 mL, 74.84 mmol) in THF (10 mL) was added dropwise. After addition, the mixture was allowed to warm to room temperature and stirred for 15 h. Then, the mixture was diluted with saturated ammonium chloride solution and the two layers were separated. The aqueous layer was extracted with ethyl acetate (3×150 mL). The combined organic extracts were washed with brine solution and dried over anhydrous magnesium sulfate. Filtration of the drying agent and removal of the solvent under the vacuum gave the crude brown solid. This solid was dissolved in acetonitrile (˜50 mL) at hot condition and then stored in the refrigerator overnight. The solids were collected by filtration and washed with diethyl ether. After drying in air, 4.47 g (64% yield) of 4-methoxy-quinoline-6-carbaldehyde was isolated as a white solid: EI-HRMS m/e calcd for C11H9NO2 (M+) 187.0633, found 187.0638.

reactant | 6-bromo-4-methoxy-quinoline | 37.42 mmol, 8.91 g | BrC=1C=C2C(=CC=NC2=CC1)OC | C10H8BrNO
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 74.84 mmol, 5.78 mL | CN(C=O)C | C3H7NO
solvent | THF | 155 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | ˜50 mL | C(C)#N | C2H3N
product | 4-methoxy-quinoline-6-carbaldehyde | 4.47 g, 64% yield | COC1=CC=NC2=CC=C(C=C12)C=O | C11H9NO2
